US06762180B1
(2) N-[(2-dimethylamino-ethyl)-carbonyl]-N-methyl-4-nitro-aniline
Prepared from N-acryloyl-N-methyl-4-nitro-aniline and dimethylamine hydrochloride

reactant | N-acryloyl-N-methyl-4-nitro-aniline | C(C=C)(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C | C10H10N2O3
reactant | dimethylamine hydrochloride | Cl.CNC
product | N-[(2-dimethylamino-ethyl)-carbonyl]-N-methyl-4-nitro-aniline | CN(CCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C)C | C12H17N3O3
